US07494999B2
1,1-Carbonyl diimidazole (CDI; 1.2 g, 7.4 mmol) was added to a mixture of cis-1-benzyl-piperidine-2,6-dicarboxylic acid hydrochloride (1.0 g, 3.34 mmol) and dioxane (10 mL) at rt under N2. The mixture was heated at 100° C. After 15 min, a solution of 4-trifluoromethoxyaniline (600 mg, 3.39 mmol) and dioxane (2 mL) was added. After an additional 2 h, CDI (500 mg, 3.08 mmol) was added (Caution: CO2 evolution). After an additional 1 h, the reaction was allowed to cool to rt, concentrated, diluted with ethyl acetate (120 mL) and washed with 0.5N HCl (100 mL×2). The organic extract was dried, filtered, concentrated, and purified by silica gel chromatography (1:0→4:1; hexanes:ethyl acetate) to give 9-benzyl-3-(4-trifluoromethoxy-phenyl)-3,9-diaza-bicyclo[3.3.1]nonane-2,4-dione: MS (ESI): 405.4 (M+H).

reactant | cis-1-benzyl-piperidine-2,6-dicarboxylic acid hydrochloride | 3.34 mmol, 1.0 g | Cl.C(C1=CC=CC=C1)N1[C@H](CCC[C@H]1C(=O)O)C(=O)O
reactant | 4-trifluoromethoxyaniline | 3.39 mmol, 600 mg | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | CO2 | C(=O)=O | CO2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 9-benzyl-3-(4-trifluoromethoxy-phenyl)-3,9-diaza-bicyclo[3.3.1]nonane-2,4-dione | C(C1=CC=CC=C1)N1C2C(N(C(C1CCC2)=O)C2=CC=C(C=C2)OC(F)(F)F)=O | C21H19F3N2O3
